### PR TITLE
[Merged by Bors] - feat(Data/Finsupp/Single): generalize single_eq_set_indicator

### PR DESCRIPTION
**Pull request by IlPreteRosso**
Generalize `Finsupp.single_eq_set_indicator` to arbitrary functions, with the old statement available as `single_eq_set_indicator'`:

```lean
theorem single_eq_set_indicator (a : α) (f : α → M) :
    ⇑(single a (f a)) = Set.indicator {a} f

### CODE REVIEW

File: Mathlib/Data/Finsupp/Single.lean [hunk 1]
```diff
@@ -61,10 +61,15 @@ theorem single_apply [Decidable (a = a')] : single a b a' = if a = a' then b els
...
+theorem single_eq_set_indicator (a : α) (f : α → M) :
+    ⇑(single a (f a)) = Set.indicator {a} f := by
   classical
-  ext
-  simp [single_apply, Set.indicator, @eq_comm _ a]
+  ext x
+  simp only [single_apply, Set.indicator, Set.mem_singleton_iff, @eq_comm _ a]
+  split_ifs with h <;> simp [h]
+
+theorem single_eq_set_indicator' : ⇑(single a b) = Set.indicator {a} fun _ => b :=
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Single.lean]: The LHS of this version is easier to apply. If you agree with the comment above, this lemma could keep its old name.

File: Mathlib/Data/Finsupp/Single.lean [hunk 2]
```diff
@@ -61,10 +61,15 @@ theorem single_apply [Decidable (a = a')] : single a b a' = if a = a' then b els
 theorem single_apply_left {f : α → β} (hf : Function.Injective f) (x z : α) (y : M) :
     single (f x) y (f z) = single x y z := by classical simp only [single_apply, hf.eq_iff]
 
-theorem single_eq_set_indicator : ⇑(single a b) = Set.indicator {a} fun _ => b := by
+theorem single_eq_set_indicator (a : α) (f : α → M) :
+    ⇑(single a (f a)) = Set.indicator {a} f := by
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Single.lean]: The RHS of this version is more general, and easier to apply.
What do you think of swapping the two sides of this statement, and calling it `Set.indicator_singleton_eq`?

File: Mathlib/Data/Finsupp/Single.lean [hunk 3]
```diff
@@ -63,8 +63,15 @@ theorem single_apply_left {f : α → β} (hf : Function.Injective f) (x z : α)
 
 theorem single_eq_set_indicator : ⇑(single a b) = Set.indicator {a} fun _ => b := by
   classical
-  ext
-  simp [single_apply, Set.indicator, @eq_comm _ a]
+  ext x
+  simp only [single_apply, Set.indicator, Set.mem_singleton_iff, @eq_comm _ a]
+
+theorem Set.indicator_singleton_eq (a : α) (f : α → M) :
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Single.lean:69]: I think the order you had before was good.
Prove this lemma first, and then the old lemma becomes a one-liner: `(Set_indicator_singleton_eq _ _).symm`

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/Data/Finsupp/Single.lean (hunk 3 above)
Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean:69]: Oops I missed this review. Woke up to your reviews and my mind wasn’t paying attention. I will create a new PR to resolve this.

Comment (IlPreteRosso) [reply Mathlib/Data/Finsupp/Single.lean:69]: See #34182
